US06197969B1
In 250 ml of toluene, 13.4 g (0.066 mol) of N-isopropoxycarbonyl-D-valine was dissolved. Thereto was added 14.3 g (0.144 mol) of N-methylmorpholine. Then was dropwise added at −10° C., 8.6 g (0.063 mol) of isobutyl chlorocarbonate. Thereto was added 22 g (0.06 mol) of (S)-1-(6-fluoro-2-benzothiazolyl)ethylamine p-toluenesulfonate. A reaction and a post-treatment were conducted in the same manner as in Reference Example 1, and the hot toluene solution was filtered in a hot state to remove the insoluble matter. The filtrate was cooled, whereby crystals were precipitated. The crystals were collected by filtration and dried to obtain 15.8 g (yield: 69.3%) of isopropyl {(R)-1-[(S)-1-(6-fluorobenzothiazol-2-yl)ethylcarbamoyl]-2-methylpropyl}carbamate. The compound obtained was confirmed for the structure by IR analysis and NMR analysis in comparison with its authentic material and identified.

reactant | N-isopropoxycarbonyl-D-valine | 0.066 mol, 13.4 g | C(C)(C)OC(=O)N[C@H](C(C)C)C(=O)O | C9H17NO4
reactant | N-methylmorpholine | 0.144 mol, 14.3 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 0.063 mol, 8.6 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | (S)-1-(6-fluoro-2-benzothiazolyl)ethylamine p-toluenesulfonate | 0.06 mol, 22 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.FC1=CC2=C(N=C(S2)[C@H](C)N)C=C1
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl {(R)-1-[(S)-1-(6-fluorobenzothiazol-2-yl)ethylcarbamoyl]-2-methylpropyl}carbamate | 15.8 g, yield: 69.3% | FC1=CC2=C(N=C(S2)[C@H](C)NC(=O)[C@@H](C(C)C)NC(OC(C)C)=O)C=C1 | C18H24FN3O3S
